US07834039B2
2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl) phenyl)propan-2-amine, acetic acid (132 mg, 0.306 mmol) was added to a 5 mL microwave vial equipped with a stirring bar. Methyl acrylate (52.6 mg, 0.611 mmol), and MeOH (3.0 mL) were added, the vial capped, and the reaction heated to 120° C. for 90 min under microwave irradiation (Biotage Optimizer, 300 W). After 90 min another aliquot of methyl acrylate (52.6 mg, 0.611 mmol) was added and the reaction submitted for another 60 min at 120° C. Reaction was cooled and the solvent removed under reduced pressure. Crude material was purified by RP-HPLC (A=50 mM ammonium acetate, B=acetonitrile; 30-70% B over 30.0 min (21.0 mL/min flow rate); 21.2×250 mm Thermo Hyperprep C18 column, 8 μm particles) to give methyl 3-(2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)propan-2-ylamino)propanoate (83.5 mg; 59.7%). LCMS (Table 1, Method f) Rt=2.78 min, m/z=458.29 (M+H)+,

reactant | 2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl) phenyl)propan-2-amine | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)C(C)(C)N | C20H22ClN3O2
reactant | acetic acid | 0.306 mmol, 132 mg | C(C)(=O)O | C2H4O2
reactant | Methyl acrylate | 0.611 mmol, 52.6 mg | C(C=C)(=O)OC | C4H6O2
reactant | methyl acrylate | 0.611 mmol, 52.6 mg | C(C=C)(=O)OC | C4H6O2
solvent | MeOH | 3.0 mL | CO | CH4O
product | methyl 3-(2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)propan-2-ylamino)propanoate | 83.5 mg, 59.7% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)C(C)(C)NCCC(=O)OC | C24H28ClN3O4
